US08685969B2
3. 2-(2-Fluorophenyl)-2-(6-morpholino-1H-indol-3-yl)ethanamine
A mixture of 4-(3-(1-(2-fluorophenyl)-2-nitroethyl)-1H-indol-6-yl)morpholine (0.235 g, 0.636 mmol) and Raney Ni (a small spatula) in MeOH (30 mL) was treated with hydrogen at 55 psi in a Parr shaker apparatus for 3 hr. The catalyst was removed by suction filtration. The filtrate was concentrated under vacuum, diluted with CH2Cl2 (100 mL), washed with brine (25 mL) and dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (0.181 g, 0.533 mmol, 84% yield) as an off-white solid.

reactant | 4-(3-(1-(2-fluorophenyl)-2-nitroethyl)-1H-indol-6-yl)morpholine | 0.636 mmol, 0.235 g | FC1=C(C=CC=C1)C(C[N+](=O)[O-])C1=CNC2=CC(=CC=C12)N1CCOCC1 | C20H20FN3O3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | 2-(2-Fluorophenyl)-2-(6-morpholino-1H-indol-3-yl)ethanamine | 0.533 mmol, 0.181 g, 84% yield | FC1=C(C=CC=C1)C(CN)C1=CNC2=CC(=CC=C12)N1CCOCC1 | C20H22FN3O
